US06271392B1
2-Methoxy-3-cyano-5-methylpyrrole
A solution of 2-cyano-4-oxopentanenitrile (2.75 g) and dimethylamine hydrochloride (16.25 g) in 100 ml of methanol was heated at reflux for 24 h. The mixture was cooled to room temperature and the solvents were removed under reduced pressure. The residue was dissolved in 50 ml of H2O and extracted with EtOAc. The organic extracts were dried over Na2SO4. Silica gel chromatography afforded a white solid (0.8 g), m.p. 105° C.

reactant | 2-cyano-4-oxopentanenitrile | 2.75 g | C(#N)C(C#N)CC(C)=O | C6H6N2O
reactant | dimethylamine hydrochloride | 16.25 g | Cl.CNC
reactant | methanol | 100 ml | CO | CH4O
product | 2-Methoxy-3-cyano-5-methylpyrrole | 0.8 g | COC=1NC(=CC1C#N)C | C7H8N2O
